US07189750B2
Synthesis of 2-Ethyl-4-methyl-5-(2-nitrooxy-ethyl)-thiazole
Fifteen (15) ml of nitric acid of (85–90%) were added dropwise to 15 ml of sulfuric acid (95–98%) over a time period of 20 minutes while keeping the temperature at 0–5° C. After 2 hours, 14.3 grams (83.60 mmole) of 2-ethyl-4-methyl-5-thiazoleethanol, prepared as described above, were added, while the temperature was still maintained at 0–5° C., the reaction mixture was stirred for 2 hours at the same temperature, and was then poured carefully onto 125 ml of cold water. The water solution was made basic with a 20% aqueous solution of sodium hydroxide and the aqueous phase was extracted with three portions of 75 grams of dichloromethane. The extracts were combined and dried over sodium sulfate, filtered and evaporated to dryness. Chromatography of the crude product on silica gel (using a mixture of 75:25 ethyl acetate:hexane as an eluent) yielded 10.5 grams (58% yield) of colorless liquid having a purity of 98%, as determined by gas chromatography.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-ethyl-4-methyl-5-thiazoleethanol | 83.60 mmole, 14.3 grams | C(C)C=1SC(=C(N1)C)CCO | C8H13NOS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
solvent | water | 125 ml | O | H2O
product | 2-Ethyl-4-methyl-5-(2-nitrooxy-ethyl)-thiazole | 10.5 grams, 58% yield | C(C)C=1SC(=C(N1)C)CCO[N+](=O)[O-] | C8H12N2O3S
